US05559111
i) 2(R)-Isopropyl-3-(3-hydroxy-4-tert-butyl-phenyl)-propanol
To a solution, stirred at 0° C., of 12.3 ml of benzyl mercaptan in 100 ml of tetrahydrofuran there are added dropwise 49 ml of a 1.6M solution of butyllithium in hexane and after a further 15 minutes' stirring at 0° C. a solution of 12.1 g of 3-[2(R)-isopropyl-3-(3-acetoxy-4-tert-butyl-phenyl)-propanoyl]-4(R)-benzyl-oxazolidin-2-one in 100 ml of tetrahydrofuran. The reaction solution is stirred at 0° C. for a further 90 minutes and is then added dropwise at 0° C., with stirring, to a suspension of 4.9 g of LiAlH4 in 100 ml of tetrahydrofuran. The reaction mixture is stirred for a further 150 minutes at 0° C. and then, in succession, 26.8 ml of ethyl acetate, 100 ml of tetrahydrofuran/water=1:1 and 400 ml of 2N H2SO4 are added dropwise thereto. The tetrahydrofuran is removed using a rotary evaporator and the suspension that remains is partitioned between diethyl ether and water. The organic phases are concentrated by evaporation and the residue is purified by FC (300 g of silica gel, dichloromethane/ethyl acetate=9:1 and 200 g of silica gel, ethyl acetate/hexane=1:2), yielding the title compound: Rf (ethyl acetate/hexane=1:2)=0.43.

reactant | benzyl mercaptan | 12.3 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | butyllithium | C(CCC)[Li]
reactant | 3-[2(R)-isopropyl-3-(3-acetoxy-4-tert-butyl-phenyl)-propanoyl]-4(R)-benzyl-oxazolidin-2-one | 12.1 g | C(C)(C)[C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)CC1=CC(=C(C=C1)C(C)(C)C)OC(C)=O | C28H35NO5
reactant | LiAlH4 | 4.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2SO4 | 2N, 400 ml | OS(=O)(=O)O | H2O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | 100 ml | O1CCCC1.O
solvent | ethyl acetate | 26.8 ml | C(C)(=O)OCC | C4H8O2
product | 2(R)-Isopropyl-3-(3-hydroxy-4-tert-butyl-phenyl)-propanol | C(C)(C)[C@H](CO)CC1=CC(=C(C=C1)C(C)(C)C)O | C16H26O2
